US07018988B2
(2S,4EZ)-4-(methoxyimino)-N-methyl-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and methylamine (2M in methanol), the title compound was obtained in 96% purity by HPLC. MS(ESI+): m/z=366.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | methylamine | 2M | CN | CH5N
product | (2S,4EZ)-4-(methoxyimino)-N-methyl-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxamide | CON=C1C[C@H](N(C1)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C(=O)NC | C21H23N3O3
